US06407233B1
A mixture of 31.2 g (0.091 mol) of methoxymethylene-triphenyl-phosphonium chloride and 10.2 g (0.091 mol) of potassium tert-butoxide in 100 ml of tetrahydrofuran is stirred for 20 minutes at 20° C. A solution of 13.3 g (0.0457 mol) of 3-[2-(tetrahydropyran-2-yloxy)-benzoyl]-5,6-dihydro-1,4,2-dioxazine in 100 ml of tetrahydrofuran is then added, and the mixture is refluxed at the boil for 12 hours. The mixture is concentrated under reduced pressure and the residue is partitioned between water and ethyl acetate. The organic phase is separated off and dried over sodium sulphate. The residue is chromatographed on silica gel using cyclohexane/ethyl acetate (1:1). 9.2 g (63% of theory) of 3-{1-[2-(tetrahydropyran-2-yloxy)-phenyl]-2-methoxyethen-1-yl}-5,6-dihydro-1,4,2-dioxazine are obtained.

reactant | methoxymethylene-triphenyl-phosphonium chloride | 0.091 mol, 31.2 g | [Cl-].COC=C1C(C=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 0.091 mol, 10.2 g | CC(C)([O-])C.[K+]
reactant | 3-[2-(tetrahydropyran-2-yloxy)-benzoyl]-5,6-dihydro-1,4,2-dioxazine | 0.0457 mol, 13.3 g | O1C(CCCC1)OC1=C(C(=O)C2=NOCCO2)C=CC=C1 | C15H17NO5
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-{1-[2-(tetrahydropyran-2-yloxy)-phenyl]-2-methoxyethen-1-yl}-5,6-dihydro-1,4,2-dioxazine | 9.2 g, 63% | O1C(CCCC1)OC1=C(C=CC=C1)C(=COC)C1=NOCCO1 | C17H21NO5
